US08383827B2
To a suspension of potassium 1-(5-bromopyridin-3-yl)cyclopropanecarboxylate (28 mg, 0.1 mmol), 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile (26 mg, 0.1 mmol), PdCl2(dppf).CH2Cl2 (4.08 mg, 5.0 μmol) in DMF (1 mL) was added 2M Na2CO3 (0.1 mL, 0.2 mmol), and the mixture was heated to 100° C. for 2 h. The mixture was concentrated and purified by silica chromatography eluting with a 0-10% MeOH-DCM gradient to give 1-(5-(3-chloro-4-cyanophenyl)pyridin-3-yl)cyclopropanecarboxylic acid. MS: (ESI) m/z 299.0, 301.0 (M+H)+.

reactant | potassium 1-(5-bromopyridin-3-yl)cyclopropanecarboxylate | 0.1 mmol, 28 mg | BrC=1C=C(C=NC1)C1(CC1)C(=O)[O-].[K+]
reactant | 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | 0.1 mmol, 26 mg | ClC1=C(C#N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H15BClNO2
reactant | CH2Cl2 | 5.0 μmol, 4.08 mg | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 0.2 mmol, 2M, 0.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(5-(3-chloro-4-cyanophenyl)pyridin-3-yl)cyclopropanecarboxylic acid | ClC=1C=C(C=CC1C#N)C=1C=C(C=NC1)C1(CC1)C(=O)O | C16H11ClN2O2
